US06384242B1
4. Preparation of (+−)-3,7-Dimethyl-3-hydroxy-oct-6-enoic Acid Methyl Ester
0.69 g of Na metal were dissolved in 200 g of methanol and cooled to 10° C. 50.47 g (0.279 mol) of 4-methyl-4-(4-methylpent-3-en-1-yl)-2-oxetanone were then added over a period of 17 mins, during which time the temperature rose to 16° C. Next, the mixture was stirred at 20° C. for 1.2 h and then acidified with 4.14 g (30 mmol) of sodium hydrogen sulfate. After being stirred for a further 1.7 h at 20° C., the suspension was filtered. The filtrate was concentrated (80 mbar, 40° C.). The residue (56.56 g) was then fractionated at 1 mbar, and the main fraction distilled at 95° C. to 97° C. 49.52 g (87.1%) of the title product were obtained in the form of an oil.

reactant | 4-methyl-4-(4-methylpent-3-en-1-yl)-2-oxetanone | 0.279 mol, 50.47 g | CC1(CC(O1)=O)CCC=C(C)C | C10H16O2
reactant | sodium hydrogen sulfate | 30 mmol, 4.14 g | S(=O)(=O)(O)[O-].[Na+]
reactant | methanol | 200 g | CO | CH4O
product | (+−)-3,7-Dimethyl-3-hydroxy-oct-6-enoic Acid Methyl Ester | 49.52 g, 87.1% | COC(CC(CCC=C(C)C)(O)C)=O | C11H20O3
